US07414061B2
4-[1-(2-Chloro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (68.2 mg, 0.3 mmol) was converted, using 2-chlorophenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (11 mg, 10%) which was obtained as an off-white solid. MS: m/e=336.5 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.3 mmol, 68.2 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 2-chlorophenylboronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 4-[1-(2-Chloro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 11 mg, 10% | ClC1=C(C=CC=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C19H14ClN3O
